US05670380
3,3'-T2S and [25I]T2S were prepared by the method of Eelkman-Rooda and co-workers (Eelkman-Rooda SJ, Kaptein E, VanLoon MAC, Visser TJ. 1988 "Development of a radioimmunoassay for triiodothyronine sulfate"), herein incorporated by reference in its entirety, but can be prepared by any number of methods known to those with skill in the art. L-3,3'-Diiodothyronine (L-T2) is purchased from Henning Berlin (Berlin, Germany). The radioactive [125I] T2 (S.A. 300-500 mCi/mg) was prepared by iodination of 3,3'-T2 (exchange reaction) using methods described in Nakamura Y, Chopra I J, Solomon DH. 1977 "Preparation of high specific activity radioactive iodothyronines and their analogues." Journal of Nuclear Medicine. 18:1112-1115, herein incorporated by reference in its entirety, but can be prepared by any of a number of methods known to those with skill in the art. In 10×75 mm disposable glass culture tubes, 10 μl of methanol containing 10-9 moles of the substrate (T2) were mixed with 25 μl of 0.4 M phosphate buffer (pH 6.2) containing approximately 1 mCi of I-125. The radioiodination reaction was started by adding 10 μl of 0.05M phosphate buffer (pH 6.2) containing 4 μg of chloramine-T. Two minutes later, the reaction was stopped by addition of 20 μl of a solution prepared by 1:10 dilution of saturated sodium metabisulfite in 0.05 M phosphate buffer (pH 6.2). The reaction mixture was next transferred to a column made from a 3-mL disposable plastic syringe filled with a suspension of Sephadex LH-20 up to 1.2 mL; the reaction vessel was washed once with 50 μl of 0.05 M phosphate buffer (pH 6.2), and washings were also transferred to the column. Unreacted radioiodine was removed by washing of the column with 1 mL of 0.05M phosphate buffer (pH 6.2) followed by 4 mL of water and 0.6 mL 99:1 (methanol: 2N NH4OH). The radioactive compounds were then eluted with 4 mL of 99:1 (methanol: 2N NH4OH) and were dried under a thin stream of air. The residue was dissolved in 100 μl of methanol (2N NH4OH) and applied to a paper strip to separate the radioiodinated iodothyronines.

reactant | triiodothyronine sulfate | S(=O)(=O)(O)OC1=C(C=C(OC2=C(C=C(C[C@H](N)C(=O)O)C=C2I)I)C=C1)I | C15H12I3NO7S
reactant | L-3,3'-Diiodothyronine | C1=CC(=C(C=C1C[C@@H](C(=O)O)N)I)OC2=CC(=C(C=C2)O)I | C15H13I2NO4
reactant | 3,3'-T2 | C1=CC(=C(C=C1CC(C(=O)O)N)I)OC2=CC(=C(C=C2)O)I | C15H13I2NO4
reactant | methanol | 10-9 moles, 10 μl | CO | CH4O
reactant | chloramine-T | 4 μg | CC=1C=CC(=CC1)S(=O)(=O)NCl | C7H8ClNO2S
reactant | sodium metabisulfite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | phosphate | 0.05 M, pH 6.2 | P(=O)([O-])([O-])[O-]
solvent | phosphate | 0.05M, 10 μl, pH 6.2 | P(=O)([O-])([O-])[O-]
solvent | phosphate | 0.4 M, 25 μl, pH 6.2 | P(=O)([O-])([O-])[O-]
product | 3,3'-T2S | C1=CC(=C(C=C1C[C@@H](C(=O)O)N)I)OC2=CC(=C(C=C2)OS(=O)(=O)O)I | C15H13I2NO7S
